US07060844B2
Preparation of 3-(1H-tetrazol-5-ylmethyl)-2-benzofuran-1 (3H)-one
A solution of (3-oxo-1,3-dihydro-2-benzofuran-1-yl)acetonitrile (890 mg, 5.14 mmol) and azidotributyltin (1.97 ml, 7.20 mmol) in dioxane (4.0 ml) was heated at 95° C. for 17 hours. The reaction was partitioned between EtOAc and saturated NaHCO3 aqueous solution, and then washed with saturated NaHCO3 aqueous solution. The aqueous layers were combined, washed with EtOAc, then acidified with 10% HCl aqueous solution. The acidic aqueous layer was extracted with EtOAc. The combined organic layers were then washed with brine, dried with anhydrous Na2SO4, and rotary evaporated to obtain a yellow oil. The oil was dissolved in CHCl3/Hexane and allowed to crystallize, leading to 3-(1 H-tetrazol-5-ylmethyl)-2-benzofuran-1(3 H)-one as a white solid (913 mg, 82%).

reactant | (3-oxo-1,3-dihydro-2-benzofuran-1-yl)acetonitrile | 5.14 mmol, 890 mg | O=C1OC(C2=C1C=CC=C2)CC#N | C10H7NO2
reactant | azidotributyltin | 7.20 mmol, 1.97 ml | N(=[N+]=[N-])[Sn](CCCC)(CCCC)CCCC
solvent | dioxane | 4.0 ml | O1CCOCC1 | C4H8O2
solvent | CHCl3 Hexane | C(Cl)(Cl)Cl.CCCCCC
product | 3-(1H-tetrazol-5-ylmethyl)-2-benzofuran-1 (3H)-one | N1N=NN=C1CC1OC(C2=C1C=CC=C2)=O | C10H8N4O2
